US07057046B2
(S)-4-(t-butyloxycarbonylamino)-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one (276 mg) was dissolved in 2 M hydrogen chloride in diethyl ether solution (25 mL) at room temperature. A precipitate slowly formed. After 16 h stirring the solvent was evaporated under vacuum. The residue was twice taken up in toluene (10 mL) and evaporated to provide (S)-4-amino-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one hydrochloride, which was used directly in the next step.

reactant | (S)-4-(t-butyloxycarbonylamino)-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one | 276 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(NCC2=C(C1)C=CC=C2)=O | C15H20N2O3
reactant | hydrogen chloride | 2 M | Cl | ClH
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | (S)-4-amino-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one hydrochloride | Cl.N[C@@H]1C(NCC2=C(C1)C=CC=C2)=O | InChI=1S/C10H12N2O.ClH/c11-9-5-7-3-1-2-4-8(7)6-12-10(9)13;/h1-4,9H,5-6,11H2,(H,12,13);1H/t9-;/m0./s1
